US06943159B1
4-((2,2-Dimethylpropanoyl)amino)phenylboronic acid:
To a solution of 4-bromo-N-pivaloylaniline (1.56 g, 6 mmol) in dry THF (50 ml) at −78° C. was added t-BuLi (1.5 M in pentane, 13.3 ml, 20 mmol) and the yellow mixture was stirred for 1 h at −78° C. under N2. The reaction was quenched with B(OCH3)3 (1.7 ml, 15 mmol) and stirred for another 1 h at −78° C. The reaction mixture was then warmed to room temperature and hydrolysed with 0.5 M hydrochloric acid (50 ml) and extracted with EtOAc (3×80 ml), dried (Na2SO4) and concentrated to ca. 40 ml. n-Hexane (120 ml) was added slowly and the colorless crystalline product was filtered off and dried, yielding 1.26 g (95%).

reactant | 4-bromo-N-pivaloylaniline | 6 mmol, 1.56 g | BrC1=CC=C(NC(C(C)(C)C)=O)C=C1 | C11H14BrNO
reactant | t-BuLi | 20 mmol, 1.5 M, 13.3 ml | [Li]C(C)(C)C
reactant | B(OCH3)3 | 15 mmol, 1.7 ml | B(OC)(OC)OC | C3H9BO3
reactant | hydrochloric acid | 0.5 M, 50 ml | Cl | ClH
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | 4-((2,2-Dimethylpropanoyl)amino)phenylboronic acid | CC(C(=O)NC1=CC=C(C=C1)B(O)O)(C)C | C11H16BNO3
